US08378104B2
Intermediate 37: 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine
A mixture of 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine (0.500 g, 1.80 mmol) and 37% aqueous formaldehyde solution (0.269 mL, 3.61 mmol) in MeOH (10.0 mL) were combined and stirred at 40° C. for 2 h. Then sodium borohydride (205 mg, 5.41 mmol) was carefully added to the reaction mixture left to stir for 16 h. The reaction was concentrated in vacuo to a solid. The crude product was dissolved in EtOAc and washed with water several times. The organic layer was collected, dried with sodium sulfate, filtered and concentrated in vacuo to a solid to yield the desired product. 1H NMR (400 MHz, CD3OD): δ 7.90 (s, 1H), 7.67 (s, 1H), 4.16-4.26 (m, 1H), 3.00 (d, J=12.13 Hz, 2H), 2.34 (s, 3H), 2.25 (td, J=11.75, 3.28 Hz, 2H), 2.03-2.15 (m, 4H), 1.31 (s, 12H).

reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 1.80 mmol, 0.500 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCNCC1)C | C14H24BN3O2
reactant | formaldehyde | 3.61 mmol, 0.269 mL | C=O | CH2O
reactant | sodium borohydride | 5.41 mmol, 205 mg | [BH4-].[Na+]
solvent | MeOH | 10.0 mL | CO | CH4O
product | 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | CN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
